US04252804
4-(3,4,5-Trimethoxyphenoxycarbonyl)-morpholine (C14H19NO6 =297.31)
To a solution of 10.15 g (0.049 mole) sodium 3,4,5-trimethoxyphenolate in 100 ml anhydrous dimethylformamide are added gradually, with stirring, 7.5 g (0.050 mole) N-chloroformyl-morpholine.

reactant | sodium 3,4,5-trimethoxyphenolate | 0.049 mole, 10.15 g | COC=1C=C(C=C(C1OC)OC)[O-].[Na+]
reactant | N-chloroformyl-morpholine | 0.050 mole, 7.5 g | ClC(=O)N1CCOCC1 | C5H8ClNO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(3,4,5-Trimethoxyphenoxycarbonyl)-morpholine | COC=1C=C(OC(=O)N2CCOCC2)C=C(C1OC)OC | C14H19NO6
